US06384033B1
N-t-Butyl-4-chloro-2-fluorobenzamide
To a suspension of 4-chloro-2-fluorobenzoic acid (0.3494 g, 2.00 mmol) in methylene chloride (10 ml) were added t-butyl amine (0.32 ml, 3.05 mmol) and HOBt (0.3248 g, 2.40 mmol), and then WSC HCl (0.4596 g, 2.40 mmol) was added and stirred for 3 hours. The reaction mixture was added into water and extracted three times with ethyl acetate. The combined extracts were dried over MgSO4. The solvent was evaporated and the residue was purified by silica gel chromatography (hexane/ethyl acetate=5/1) to give the title compound (0.4403 g; 96%).

reactant | 4-chloro-2-fluorobenzoic acid | 2.00 mmol, 0.3494 g | ClC1=CC(=C(C(=O)O)C=C1)F | C7H4ClFO2
reactant | t-butyl amine | 3.05 mmol, 0.32 ml | C(C)(C)(C)N | C4H11N
reactant | HOBt | 2.40 mmol, 0.3248 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC HCl | 2.40 mmol, 0.4596 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-t-Butyl-4-chloro-2-fluorobenzamide | 0.4403 g, 96% | C(C)(C)(C)NC(C1=C(C=C(C=C1)Cl)F)=O | C11H13ClFNO
